US08008350B2
(i) 4-Bromo-2-fluoro-1-(phenylsulfonyl)benzene
4-Bromo-2-fluoro-benzenesulfonyl chloride (2 g), benzene (1.3 ml) and iron (III) chloride (35 mg) were heated in a sealed tube using a microwave at 200 Watts for 15 seconds. After cooling purification by flash column chromatography (eluent 20% EtOAc/Hexane) gave the subtitle compound as a solid, yield 1.8 g.

reactant | 4-Bromo-2-fluoro-benzenesulfonyl chloride | 2 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
catalyst | iron (III) chloride | 35 mg | [Fe](Cl)(Cl)Cl
solvent | benzene | 1.3 ml | C1=CC=CC=C1 | C6H6
product | 4-Bromo-2-fluoro-1-(phenylsulfonyl)benzene | BrC1=CC(=C(C=C1)S(=O)(=O)C1=CC=CC=C1)F | C12H8BrFO2S
